US07652143B2
t-Butyl 2-(1-hydroxymethyl-2-(4-methoxyphenyl)ethylamino)-3-methylbutyrate (2.49 g; 7.4 mmol) was dissolved in CH2Cl2 (180 ml). The reaction solution was cooled to −78° C. Then pyridine (3 ml; 37 mmol) was added and subsequently thionyl chloride (0.64 ml; 8.88 mmol) was added dropwise. The reaction mixture was stirred for 1 h, during which the temperature was allowed to reach 0° C. It was taken up in CH2Cl2 and washed with aqueous HCl (1%; 2×) and NaHCO3 solution. The organic phase was dried over Na2SO4 and concentrated in a rotary evaporator. The crude product was purified by filtration through silica gel (100 g). t-Butyl 2-(4-(4-methoxybenzyl)-2-oxo-(1,2,3)oxathiazolidin-3-yl)-3-methylbutyrate (2.35 g; 0.61 mmol) was obtained as a dark yellow oil. MS: 384.20 (M+H); Rt: 1.76 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | t-Butyl 2-(1-hydroxymethyl-2-(4-methoxyphenyl)ethylamino)-3-methylbutyrate | 7.4 mmol, 2.49 g | OCC(CC1=CC=C(C=C1)OC)NC(C(=O)OC(C)(C)C)C(C)C | C19H31NO4
reactant | pyridine | 37 mmol, 3 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 8.88 mmol, 0.64 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 180 ml | C(Cl)Cl | CH2Cl2
product | t-Butyl 2-(4-(4-methoxybenzyl)-2-oxo-(1,2,3)oxathiazolidin-3-yl)-3-methylbutyrate | 0.61 mmol, 2.35 g | COC1=CC=C(CC2N(S(OC2)=O)C(C(=O)OC(C)(C)C)C(C)C)C=C1 | C19H29NO5S
